* E:\Selvaganesh\Education\IIT Madras\analog lab\lab_6\speaker driving circuit.asc
XU1 N044 N039 N038 0 N005 AD8648
V1 N045 0 5
R1 N045 N044 1k
R2 N044 0 1k
C1 N005 N039 1µF
R3 N039 N036 22k
R4 N040 N005 10k
R5 N036 N040 50k
R6 N038 N036 10k
XU2 N040 N044 N038 0 N036 lm339 LM339
R9 N001 0 1.005
R10 N001 N006 200
R11 N002 N003 400
C3 N003 N001 12.73µ
C4 N002 N001 12.73µ
XU4 N003 N009 N002 opamp Aol=100K GBW=10Meg
V4 N009 0 2.5V
R12 N025 0 2.2
R13 N025 N006 44
R14 N026 N028 88
C5 N028 N025 22.4µ
C6 N026 N025 22.44µ
XU5 N028 N031 N026 opamp Aol=100K GBW=10Meg
V5 N031 0 2.5V
V6 N006 0 SINE(0 2.5 625)
R15 N015 N002 10k
R16 N015 N026 10K
R17 N016 N015 10K
XU6 N015 N020 N016 opamp Aol=100K GBW=10Meg
V7 N020 0 2.5V
A1 0 N007 0 N010 0 N011 0 0 AND Vhigh=5 Vlow=0
A4 0 N011 0 N022 0 N010 0 0 AND Vhigh=5 Vlow=0
Q1 N018 N014 N004 0 PNP
Q2 N018 N024 0 0 NPN
A7 N007 0 0 0 0 N022 0 0 BUF Vhigh=5 Vlow=0
R20 N004 N007 10k
XU7 N008 N005 N004 0 N007 lm339 lm339
Q3 N037 N035 N004 0 PNP
Q4 N037 N043 0 0 NPN
R23 N004 N030 10k
XU8 N019 N005 N004 0 N030 lm339 lm339
V8 N004 0 5V
C7 N019 N016 10µF
R24 N017 N019 1K
R25 N008 N017 1K
XU9 N017 N021 N008 opamp Aol=100K GBW=10Meg
V10 N021 0 2.5V
R26 N027 N018 16
R27 N029 N037 16
L1 N027 N029 1000µH
V2 N038 0 5
C8 N010 0 10nF
C§10nF 0 N011 10nf
A8 N030 0 0 0 0 N041 0 0 BUF Vhigh=5 Vlow=0 ref=1.0
A11 N010 0 0 0 0 P001 0 0 BUF Vhigh=5 Vlow=0
A2 P001 0 0 0 0 N023 0 0 BUF Vhigh=5 Vlow=0
R7 N014 N013 1 pwr=25m
R8 N024 N023 1000
A5 0 N030 0 N032 0 N033 0 0 AND Vhigh=5 Vlow=0
A6 0 N033 0 N041 0 N032 0 0 AND Vhigh=5 Vlow=0
C2 N032 0 10nF
C9 0 N033 10nf
A9 N032 0 0 0 0 P002 0 0 BUF Vhigh=5 Vlow=0
A10 P002 0 0 0 0 N042 0 0 BUF Vhigh=5 Vlow=0
A13 N033 0 0 0 0 P003 0 0 BUF Vhigh=5 Vlow=0 ref=1.0
A14 P003 0 0 0 0 N034 0 0 BUF Vhigh=5 Vlow=0 ref=1.0
R18 N035 N034 1000
R19 N043 N042 1000
A3 N011 0 0 0 0 N012 0 0 BUF Vhigh=5 Vlow=0
A12 N012 0 0 0 0 N013 0 0 BUF Vhigh=5 Vlow=-2
.model NPN NPN
.model PNP PNP
.lib C:\Users\A MUTHU SELVI ESWARI\AppData\Local\LTspice\lib\cmp\standard.bjt
.include lm339.sub
.tran 0 10ms 0 1m
* 2
* 3
* 1
* 5
* 4
* 2
.lib opamp.sub
.lib ADI.lib
.backanno
.end
